US05708174
c) 2H-Thiochromene-8-carboxylic acid
Methyl-2H-thiochromene-8-carboxylate (0.300 g, 1.46 mmol) was dissolved in ethanol (5 ml) and treated with 10% sodium hydroxide solution (10 ml). The mixture was then heated to reflux with stirring. After 5 h, the reaction mixture was allowed to cool The ethanol present was then removed by evaporation under reduced pressure. The aqueous residue was then washed with CH2Cl2 (2x) before being acidified to pH1 using 5M HCl. The resultant pale yellow precipitate was then filtered off and dried in vacuo to give the title compound (0.195 g, 69%) as a pale yellow solid.

reactant | Methyl-2H-thiochromene-8-carboxylate | 1.46 mmol, 0.300 g | COC(=O)C=1C=CC=C2C=CCSC12 | C11H10O2S
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2H-Thiochromene-8-carboxylic acid | 0.195 g, 69% | S1CC=CC2=CC=CC(=C12)C(=O)O | C10H8O2S
